US05047411
To a solution of 2-[2-{4-(3-methylthioureido)phenyl}ethyl]pyridine (7.1 g) in chloroform (100 ml) was dropwise added a bromine (4.6 g) at ambient temperature under stirring and the mixture was stirred at the same temperature for one hour. Further, the resultant mixture was refluxed under stirring for hours. The reaction mixture was evaporated in vacuo and the residue was heated with 10% hydrochloric acid (100 ml) for one hour at 70° to 80° C. The resultant mixture was washed with ethyl acetate. The separated aqueous layer was adjusted to pH 7.5 with aqueous 20% potassium carbonate and extracted with ethyl acetate. The extract was washed with brine and dried over magnesium sulfate. The solvent was evaporated in vacuo and the residue was subjected to column chromatography on silica gel. The fraction eluted with a mixture of ethyl acetate and diisopropyl ether (6:4 V/V) was collected and solvent was evaporated in vacuo to give a crystalline residue of 6-[2-(2-pyridyl)ethyl]-2-methylaminobenzothiazole (1.0 g).

reactant | 2-[2-{4-(3-methylthioureido)phenyl}ethyl]pyridine | 7.1 g | CNC(NC1=CC=C(C=C1)CCC1=NC=CC=C1)=S | C15H17N3S
reactant | bromine | 4.6 g | BrBr | Br2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-[2-(2-pyridyl)ethyl]-2-methylaminobenzothiazole | 1.0 g | N1=C(C=CC=C1)CCC1=CC2=C(N=C(S2)NC)C=C1 | C15H15N3S
